US07141561B2
1-[4-(2-Dimethylaminoethylamino)-3-nitrophenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
A solution of 1-(4-fluoro-3-nitrophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one (100 mg) in dimethylformamide (2 ml) was shaken with 2-dimethylaminoethylamine (0.3 ml) at 70° C. for 2 hours. Volatiles were removed and the residue was partitioned between dichloromethane and water. The organic phase was dried and concentrated. The product with the molecular weight of 459.51 (C25H25N5O4); MS (ESI): 460 ([M+H]+), was obtained in this way.

reactant | 1-(4-fluoro-3-nitrophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | 100 mg | FC1=C(C=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)[N+](=O)[O-] | C21H14FN3O4
reactant | 2-dimethylaminoethylamine | 0.3 ml | CN(CCN)C | C4H12N2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-[4-(2-Dimethylaminoethylamino)-3-nitrophenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | CN(CCNC1=C(C=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)[N+](=O)[O-])C | C25H25N5O4
